US04283509
2. Ethyl 5-phenylvalerate
250 g (1.4 mols) of 5-phenylvaleric acid are dissolved in 450 ml of absolute ethanol. 114 ml of concentrated sulphuric acid are added to the clear colourless solution and the reaction mixture is refluxed for 48 hours. The reaction mixture, which initially is two-phase, becomes almost homogeneous and separates into two phases again on cooling. The cold two-phase reaction mixture is poured onto diethyl ether and about 1 kg of ice. The aqueous phase is extracted with ether twice more. The ether phases are washed twice with 2 N sodium carbonate solution and twice with NaCl solution. The combined ether phases are dried over MgSO4 and the solvent is removed on a rotary evaporator. After drying under a high vacuum at room temperature, 281.7 g of a colourless oil (97.5% of theory) are obtained.

reactant | 5-phenylvaleric acid | 1.4 mols, 250 g | C1(=CC=CC=C1)CCCCC(=O)O | C11H14O2
reactant | sulphuric acid | 114 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 450 ml | C(C)O | C2H6O
product | Ethyl 5-phenylvalerate | 281.7 g, 97.5% | C1(=CC=CC=C1)CCCCC(=O)OCC | C13H18O2
